US04233299
2,6-Dimethyl-4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide
4.0 gm (14 millimols) of methyl 4-hydroxy-2,6-dimethyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide and 2.0 gm (17 millimols) of 2-amino-5-methyl-thiazole were refluxed in 200 ml of anhydrous xylene for 24 hours. After cooling, the crystals which had separated out were filtered off. After recrystallization from ethylene chloride 3.6 gm (70% of theory) of 2,6-dimethyl-4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3carboxamide-1,1-dioxide were obtained.

reactant | methyl 4-hydroxy-2,6-dimethyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 14 millimols, 4.0 gm | OC1=C(N(S(C2=C1C=C(C=C2)C)(=O)=O)C)C(=O)OC | C12H13NO5S
reactant | 2-amino-5-methyl-thiazole | 17 millimols, 2.0 gm | NC=1SC(=CN1)C | C4H6N2S
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,6-Dimethyl-4-hydroxy-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | CN1S(C2=C(C(=C1C(=O)NC=1SC(=CN1)C)O)C=C(C=C2)C)(=O)=O | C15H15N3O4S2
